US07576109B2
Intermediate: 3-{3-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-propionic acid methyl ester
To a solution of 4-butyl-5-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole (300 mg, 0.90 mmol) in anhydrous DMF (5 mL) add cesium carbonate (586 mg, 1.80 mmol) and methyl 3-(3-hydroxyphenyl)propionate (178 mg, 0.99 mmol). Stir the resulting mixture overnight then pour into water and extract twice with ethyl acetate. Wash the combined extracts with water, dry over MgSO4, filter and concentrate under vacuum. Purify the residue by flash chromatography on silica gel (eluting with 5% ethyl acetate in heptane) to give the title compound (290 mg) as a yellow oil.

reactant | 4-butyl-5-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole | 0.90 mmol, 300 mg | C(CCC)C=1N=C(SC1CCl)C1=CC=C(C=C1)C(F)(F)F | C15H15ClF3NS
reactant | cesium carbonate | 1.80 mmol, 586 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 3-(3-hydroxyphenyl)propionate | 0.99 mmol, 178 mg | OC=1C=C(C=CC1)CCC(=O)OC | C10H12O3
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-{3-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-propionic acid methyl ester | 290 mg | COC(CCC1=CC(=CC=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCCC)=O | C25H26F3NO3S
